US05624937
1-[4-(2-quinolyl)thiophenyl]-3-(4-chloro-3-trifluoromethyphenyl)thiourea
2-(4-aminophenylthio) quinoline (3.9 mmoles, 1.0 g) and 4-chloro-3 -trifluoromethylphenylisothiocyanate (3.9 mmoles, 0.92 g) were reacted according to procedure A to yield 1.06 g, 56% of the title compound. Mass spec (FD) 490. Calculated for C23H15ClF3N3S2 : C, 56.38; H, 3.09, N, 8.58. Found: C, 56.60; H, 3.11; N, 8.42.

reactant | 2-(4-aminophenylthio) quinoline | 3.9 mmoles, 1.0 g | NC1=CC=C(C=C1)SC1=NC2=CC=CC=C2C=C1 | C15H12N2S
reactant | 4-chloro-3 -trifluoromethylphenylisothiocyanate | 3.9 mmoles, 0.92 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-quinolyl)thiophenyl]-3-(4-chloro-3-trifluoromethyphenyl)thiourea | 1.06 g, 56% | N1=C(C=CC2=CC=CC=C12)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H15ClF3N3S2
